US08030311B2
(R/S)-5-Nitro-3-oxo-indan-1-carboxylic acid ethyl ester (3 g, 12 mmol) (Gadient, Fulvio; Suess, Rudolf. Indane carboxylic acids, DE 2505447) is added portionwise over 5 minutes to a stirred suspension of tin (II) chloride (13.9 g, 60.2 mmol) in ethanol (50 mL) at rt under nitrogen. The reaction is then refluxed for 30 min, cooled to rt, poured into ice water and the pH adjusted to 9 with 1M sodium hydroxide. The mixture is extracted with diethyl ether and then washed with brine, dried and concentrated in vacuo to give (R/S)-5-amino-3-oxo-indan-1-carboxylic acid ethyl ester as a light yellow solid. Title compound: ES-MS: 219.96 [M+H]+; tR=0.8 min (System 2).

reactant | (R/S)-5-Nitro-3-oxo-indan-1-carboxylic acid ethyl ester | 12 mmol, 3 g | C(C)OC(=O)C1CC(C2=CC(=CC=C12)[N+](=O)[O-])=O | C12H11NO5
reactant | tin (II) chloride | 60.2 mmol, 13.9 g | [Sn](Cl)Cl
reactant | sodium hydroxide | 1M | [OH-].[Na+]
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | (R/S)-5-amino-3-oxo-indan-1-carboxylic acid ethyl ester | C(C)OC(=O)C1CC(C2=CC(=CC=C12)N)=O | C12H13NO3
